US07973078B2
5.00 g of 4-fluoro-3-methylbenzoic acid was dissolved in 100 mL of ethanol, and 2.59 mL of concentrated sulfuric acid was added thereto, followed by heating under reflux overnight. The reaction liquid was cooled to room temperature, and then concentrated under reduced pressure, and the obtained residue was alkalified (pH=8) by addition of an aqueous saturated sodium hydrogen carbonate solution under ice-cooling, followed by extraction with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 5.86 g of ethyl 4-fluoro-3-methylbenzoate.

reactant | 4-fluoro-3-methylbenzoic acid | 5.00 g | FC1=C(C=C(C(=O)O)C=C1)C | C8H7FO2
reactant | sulfuric acid | 2.59 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | ethyl 4-fluoro-3-methylbenzoate | 5.86 g | FC1=C(C=C(C(=O)OCC)C=C1)C | C10H11FO2
